US08895733B2
Intermediate 176: tert-Butyl 4-(methoxymethyl)piperidine-1-carboxylate
A solution of tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate (0.300 g, 1.395 mmol) in DMF (2.5 mL) was added dropwise to a suspension of sodium hydride (60% dispersion in mineral oil, 0.067 g, 1.674 mmol) in anhydrous DMF (2.5 mL) at 0 C. The reaction mixture was stirred at 0 C for 10 min followed by dropwise addition of iodomethane (86 μL, 1.395 mmol). The mixture was warmed to room temperature and stirred for 18 h. The reaction mixture was re-treated with sodium hydride (60% dispersion in mineral oil, 0.067 g, 1.674 mmol) and iodomethane (86 μL, 1.395 mmol) and was stirred at room temperature for 18 h. The reaction mixture was evaporated under reduced pressure, dissolved in DCM and washed with a saturated aqueous solution of sodium bicarbonate. The organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by FCC (EtOAc: heptane, 1:1) to afford the title compound (0.074 g, 23%). Method B HPLC-MS: MH+ requires m/z=229 Found: m/z=174 (MH+-tBu) Rt=1.98 min (99%).

reactant | tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate | 1.395 mmol, 0.300 g | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | sodium hydride | 1.674 mmol, 0.067 g | [H-].[Na+]
reactant | iodomethane | 1.395 mmol, 86 μL | IC | CH3I
reactant | sodium hydride | 1.674 mmol, 0.067 g | [H-].[Na+]
reactant | iodomethane | 1.395 mmol, 86 μL | IC | CH3I
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(methoxymethyl)piperidine-1-carboxylate | 0.074 g, 23% | COCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3
